US03993679
N,N'-(5-Cyano-m-phenylene)dioxamic acid
A solution of 1.51 gram (0.0045 mole) of diethyl N,N'-(5-cyano-m-phenylene)dioxamate in 10 ml. of 5% sodium hydroxide solution is stirred for 25 minutes and filtered. To the filtrate is added dilute hydrochloric acid. The resulting precipitate is removed by filtration; weight 0.86 grams, M. P. 230°C.

reactant | diethyl N,N'-(5-cyano-m-phenylene)dioxamate | 0.0045 mole, 1.51 gram | C(#N)C=1C=C(C=C(C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C15H15N3O6
reactant | sodium hydroxide | [OH-].[Na+]
product | N,N'-(5-Cyano-m-phenylene)dioxamic acid | C(#N)C=1C=C(C=C(C1)NC(C(=O)O)=O)NC(C(=O)O)=O | C11H7N3O6
